US04879309
1-Methyl-4-(3'-Aminophenylcarbonyl)Piperazine Hydrochloride
Dissolve 3.0 g of the product of Preparation 3, 1.3 g of N-methylpiperazine, 1.9 g of 1-hydroxybenzotriazole and 2.7 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride in 10 ml of DMF. Stir for 18 hrs. and then concentrate in vacuo. Dissolve the resultant residue in 100 ml of ethyl acetate, wash with 20 ml of 1N NaHCO3 solution, and 20 ml of saturated sodium chloride solution. Dry the organic layer over MgSO4, filter and concentrate in vacuo. Dissolve 1.68 g of this residue in 10 ml of HCl:dioxane and stir for 2 hrs. Concentrate in vacuo to obtain the title compound as a white solid, mass spec M+=219.

reactant | N-methylpiperazine | 1.3 g | CN1CCNCC1 | C5H12N2
reactant | 1-hydroxybenzotriazole | 1.9 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.7 g | Cl.CN(CCCN=C=NCC)C
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-Methyl-4-(3'-Aminophenylcarbonyl)Piperazine Hydrochloride | Cl.CN1CCN(CC1)C(=O)C1=CC(=CC=C1)N | InChI=1S/C12H17N3O.ClH/c1-14-5-7-15(8-6-14)12(16)10-3-2-4-11(13)9-10;/h2-4,9H,5-8,13H2,1H3;1H
